US07338959B2
3-(4-{Methyl-[1-methyl-2-(1-phenyl-ethylamino)-1H-benzoimidazol-5-yl]-amino}-pyrimidin-2-ylamino)-benzenesulfonamide hydrochloride
The title compound was prepared following the procedure of example one with N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-(1-phenyl-ethyl)-1H-benzoimidazole-2,5-diamine (98 mg, 0.25 mmol) and 3-amino-benzenesulfonamide (43 mg, 0.25 mmol) as a white solid (65 mg, 46%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.58 (s, 2H), 8.57 (s, 1H), 7.75-7.81 (m, 2H), 7.48-7.51 (m, 2H), 7.32-7.41 (m, 5H), 7.17-7.26 (m, 4H), 6.98-7.00 (m, 1H), 5.65 (d, J=6.3 Hz, 1H), 5.17 (m, 1H), 3.67 (s, 3H), 3.44 (s, 3H), 1.58 (d, J=6.9 Hz, 3H). MS (ESI) m/z=529 [M+H]+.

reactant | N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-(1-phenyl-ethyl)-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 98 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC(C)C2=CC=CC=C2)C)C=C1)C | C21H21ClN6
reactant | 3-amino-benzenesulfonamide | 0.25 mmol, 43 mg | NC=1C=C(C=CC1)S(=O)(=O)N | C6H8N2O2S
product | 3-(4-{Methyl-[1-methyl-2-(1-phenyl-ethylamino)-1H-benzoimidazol-5-yl]-amino}-pyrimidin-2-ylamino)-benzenesulfonamide hydrochloride | Cl.CN(C1=NC(=NC=C1)NC=1C=C(C=CC1)S(=O)(=O)N)C1=CC2=C(N(C(=N2)NC(C)C2=CC=CC=C2)C)C=C1 | InChI=1S/C27H28N8O2S.ClH/c1-18(19-8-5-4-6-9-19)30-27-32-23-17-21(12-13-24(23)35(27)3)34(2)25-14-15-29-26(33-25)31-20-10-7-11-22(16-20)38(28,36)37;/h4-18H,1-3H3,(H,30,32)(H2,28,36,37)(H,29,31,33);1H
